Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics) / Prograf / Keppra / 
trimethoprim / adhesive tape / vancomycin
 
Attending: ___
 
Chief Complaint:
Fevers, malodorous urine
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F s/p T1DM s/p simultaneous ___ transplant in
___ (on cyclosporine, MMF, prednisone - for ___ antibody), c/b tacrolimus toxicity and transverse
myelitis with lower extremity paralysis and urinary retention
currently with urethral foley catheter, recurrent multiple MDR
UTIs on fosfomycin PPX, urinary stones, presented to emergency
department today with fever of 102. 

Summary from ED Note:
"Recent admission ___ for ___ from poor PO
intake. Base line Cr 1.5. Cr went up to 1.8 two days prior to
admission, went down to 1.2 at discharge. History or VRE in
___, but enterococcus in urine culture in ___ was 
sensitive
to Vancomycin. Also history of recurrent meropenem resistant
pseudomonas. Most recent positive urine culture in ___ was
positive for pseudomonas and enterococcus. Decision was made to
not treat. Thought to be colonization rather than infection 
given
pt was asymptomatic, afebrile without leukocytosis. Her foley
catheter is exchanged monthly. Current catheter was placed on
___

Patient notes that about 4 days ago she started to notice urine
that was malodorous, consistent with prior episodes of UTIs. She
did not want to come to the hospital at the time as she was not
having any other symptoms. She notes that she continued to have
malodorous urine, but did not have subjective fevers or chills,
or pain in her abdomen. Patient was noted to have a temperature
of 102 today at her group home, after blow drying her hair. She
had the aide recheck after half an hour and was still elevated 
so
came to the ED. She was not feeling subjective fevers at the
time, but by report, was more fatigued. Per patient, had 
headache
today that improved with Tylenol in the ED. No nausea, vomiting,
changes in PO intake, hematuria, diarrhea. No CP, SOB. Last BM
was 3 days ago and feels slightly bloated. No cough. Has chronic
L leg wound.

In the ED initial vitals: 102.9 106 158/75 16 100% RA 

- Exam notable for: NAD, normal cardiopulmonary exams, 3+ edema
in lower extremities. Abd: midline surgical scar ___,
mildly distended however nontender to palpation, No
costovertebral angle tenderness. left lateral calf ulcer without
erythema drainage or other signs of infection covered with
bandage, No sensation or strength below level of the umbilicus.

- Labs notable for:
CBC: 16.2 > 9.5/29.9 < 156
Chem7: 140/6.3 / 106/20 / 42/1.7 < 103
Repeat Chem7 with K 5.0, then 4.4
Cyclosporine 168
proBNP 1074
LFTs: WNL, normal Alb, amylase, lipase

UA with >182 WBC, Pos nitrites, 0 epi, mod blood, no yeast

BCx, UCx pending

- Imaging notable for:  
Renal transplant u/s 
1. Unremarkable assessment of the transplanted kidney.
2. Moderate volume pelvic free fluid is similar to prior
examinations.

Bilat ___ U/S:
No evidence of deep venous thrombosis in the right or left 
common
and proximal femoral veins. Limited assessment of the mid and
distal femoral veins without evidence of deep venous thrombosis.
The popliteal and calf veins were not seen.

CXR:
No evidence of an acute cardiopulmonary abnormality.No evidence
of an acute cardiopulmonary abnormality.

- Consults: Renal transplant was consulted

- Patient was given:  
PO Acetaminophen 1000 mg ___  
IVF  LR  Started 250 mL/hr for 3.5 hours
IV ___ 4.5 g  
IV Vancomycin 1000 mg
IV Linezolid ___ mg  
PO/NG Levothyroxine Sodium 50 mcg 
PO Mycophenolate Mofetil 500 mg
PO OXcarbazepine 150 mg 
PO CycloSPORINE (Neoral)
IV ___ 4.5g

Patient was noted to have hives after receiving Vancomycin, and
was switched to linezolid.

- Transfer vitals: 99.9 89 159/73 16 97% RA 

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.
 
Past Medical History:
- ___ s/p renal/pancreas transplant in ___, complicated by:  
-- infected ___ fluid collections/pelvic abscess  
(Klebsiella and VRE) with subsequent fungemia and enterococcal  
bacteremia in setting of elevated tacro levels (~___) 
-- subsequent surgical revision one month ___ due to leaky
___ anastomosis 
-- transverse myelitis with paraplegia secondary to tacrolimus
toxicity, now on cyclosporine  
- Chronic foley ___ neurogenic bladder  
- Recurrent MDR urinary infections/pyelonephritis
- MDR pseudomonas UTIs
- seizure disorder (discharged ___ for second lifetime
seizure in setting of VRE UTI, on oxcarbamazepine)  
- RUE DVT, on enoxaparin x 3 months (started during same 
admission, discharged ___  
- ___ heel ulcers  
- Gastritis, Esophagitis  
- cataracts  
- retinopathy with left retinal detachment  
- nephrolithiasis  
- HTN  
- depression  
- restless legs syndrome 
 
Social History:
___
Family History:
No family history of kidney disease. No family history of major
cardiovascular disease patient is aware of. Father and mother 
with hypertension per report

 
Physical Exam:
Exam on Admission:
=========================
VS: 100.5 168/79 93 18 97% RA  
GENERAL: NAD, alert & oriented x 3
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no JVD  
HEART: RRR, S1/S2, soft diastolic murmur, no gallops or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Prior surgical scar is midline, appears ___.
Some surrounding ecchymoses. nondistended, nontender in all
quadrants, no rebound/guarding, no hepatosplenomegaly
BACK: No CVAT  
EXTREMITIES: 3+ edema up towards hips. no cyanosis, clubbing. R
and L feet with toe amputations. Small ulcer on top of R foot. L
calf with wound. 
NEURO: A&Ox3, Full sensation/strength in upper extremities
bilaterally. Decreased sensation below umbilicus, no sensation 
in
legs, and no movement. ___ grossly intact. 
.
Exam on Discharge:
=========================
Vitals: ___ 0736 Temp: 98.1 PO BP: 170/83 HR: 88 RR: 18 O2
sat: 97% O2 delivery: RA 
GEN - Oriented, alert, NAD 
CHEST - clear to auscultation bl 
HEART - RRR, nl S1/S2, no m/r/g 
ABD - normoactive BS, soft, mildly distended, non tender
GU - no tenderness over transplanted kidney in LLQ; no bruit
appreciated; clear, light yellow urine in the foley bag  
___ - warm, no edema; wound on left heel not examined given
wrapped in dressing
 
Pertinent Results:
Labs on admission:
====================================
___ 12:22AM BLOOD ___ 
___ Plt ___
___ 04:20AM BLOOD ___ ___
___ 12:22AM BLOOD ___ 
___
___ 12:22AM BLOOD ___ 
___
___ 12:22AM BLOOD ___
___ 03:13AM BLOOD ___
___ 04:20AM BLOOD ___
___ 08:40AM BLOOD ___
___ 12:42AM BLOOD ___ 
___
___ 12:42AM BLOOD ___
.
Microbiology:
====================================
 URINE CULTURE (Final ___: 
      THIS IS A CORRECTED REPORT ___ @ 2:30 ___. 
      PSEUDOMONAS AERUGINOSA. 
         THIS IS A CORRECTED REPORT ___ @ 2:30 ___. 
         CEFTAZIDIME/AVIBACTAM AND Ceftolozane/tazobactam 
Susceptibility
         testing requested per ___ ___ (___) ___. 
         CEFTAZIDIME/AVIBACTAM ___ MCG/ML = SUSCEPTIBLE 
PREVIOUSLY REPORTED
         AS ___ MCG/ML.  Ceftolozane/tazobactam ___ MCG/ML= 
SUSCEPTIBLE. 
         CEFTAZIDIME/AVIBACTAM AND Ceftolozane/tazobactam test 
result
         performed by Etest. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 
      SALMONELLA SPECIES.    >100,000 CFU/mL. 
         THIS IS A CORRECTED REPORT  ___ @ 2:30 ___. 
         Reported to and read back by ___ ___ (___) AT 
1253-
         ___.  CIPROFLOXACIN .12 MCG/ML= Intermediate. 
         PREVIOUSLY REPORTED AS CIPROFLOXACIN .12 MCG/ML= 
SUSCEPTIBLE
         ___ AT 11:12 AM. 
         CIPROFLOXACIN test result performed by Etest. 
         Cefepime AND Piperacillin/Tazobactam Susceptibility 
testing
         requested per ___ (___) ___. 
         IDENTIFICATION CONFIRMED BY ___ LABORATORY 
___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          SALMONELLA SPECIES
                             |          |   
AMPICILLIN------------             =>32 R
CEFEPIME--------------     8 S        2 S
CEFTAZIDIME-----------    16 I
CEFTRIAXONE-----------             =>64 R
CIPROFLOXACIN---------   =>4 R          I
GENTAMICIN------------   <=1 S
MEROPENEM-------------  =>16 R
PIPERACILLIN/TAZO-----       I      <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----              <=1 S
.
Blood culture ___ x 2 - No growth
.
C dif PCR ___ - negative.
.
Urine culture ___ - No growth
.
Stool culture ___:
                          **FINAL REPORT ___

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   FECAL CULTURE (Final ___: 
      SALMONELLA SPECIES. 
         IDENTIFICATION CONFIRMED BY ___ LABORATORY 
___. 
         Reported to and read back by ___ (___) 
@07:53
         (___).  SEROTYPE PENDING. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 
.
___ Blood culture - No growth to date
.
___ Blood culture - No growth to date
.

___ 3:52 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 
.
Reports:
====================================
___: Lower extremity u/s:
No evidence of deep venous thrombosis in the right or left 
common and proximal femoral veins.  Limited assessment of the 
mid and distal femoral veins without evidence of deep venous 
thrombosis.  The popliteal and calf veins were not seen.
.
___: CXR PA/Lateral:
IMPRESSION:  
No evidence of an acute cardiopulmonary abnormality. 
.
___: Renal u/s:
IMPRESSION:  
1.  The transplanted kidney in the left iliac fossa demonstrates 
normal 
vascularity within it.  The kidney appears normal 
morphologically with no 
hydronephrosis. 
2.  Moderate volume pelvic free fluid is similar to prior 
examinations. 
.
___: Portable abdominal XR
IMPRESSION:  
No visualization of dilated bowel.  No evidence of free air. 
.
___: CT Head w/o contrast:
IMPRESSION:  
Within confines of mildly motion degraded examination, no acute 
intracranial abnormality on noncontrast head CT.  Specifically 
no acute large territory infarct or intracranial hemorrhage.  No 
intracranial mass effect. 
.
___: CT ABD & PELVIS W/O CON
IMPRESSION: 
1. No definite acute findings.  No pneumoperitoneum. Evaluation 
for fistula is limited without contrast. 
2. Stable appearance of the left pelvic transplant kidney, 
atrophic native 
kidneys, and pancreatic transplant within the limits of this 
noncontrast 
examination. 
3. Moderate to large loculated ascites in the pelvis. 
4. Redemonstrated nonobstructive renal calculi in the native 
kidneys. 
.
___: CXR
IMPRESSION:  
Left PICC line tip is at the level of proximal right atrium and 
should be 
pulled back 1 cm to secure it position at the cavoatrial 
junction or above. 
Heart size and mediastinum are unremarkable.  Lungs are clear.  
No appreciable pleural effusion or pneumothorax is seen.  Old 
rib fractures are ___ bilaterally. 
.
___: Diagnostic para:
IMPRESSION: 
1. Technically successful ultrasound guided diagnostic 
paracentesis. 
2. 600 L of clear, dark yellow fluid were removed and sent for 
requested 
analysis. 
.
___: Right upper quadrant ultrasound: Pending
.
Labs on discharge:
====================================
___ 05:32AM BLOOD ___ 
___ Plt ___
___ 05:32AM BLOOD Plt ___
___ 05:32AM BLOOD ___ ___
___ 05:32AM BLOOD ___ 
___
___ 05:32AM BLOOD ___ LD(___)-184 ___ 
TotBili-<0.2
___ 06:19AM BLOOD ___
___ 05:32AM BLOOD ___
___ 05:32AM BLOOD ___
.
___ 10:07AM URINE ___ Sp ___
___ 10:07AM URINE ___ 
___
___ 10:07AM URINE RBC->182* WBC->182* ___ 
___
___ 10:07AM URINE WBC ___
___ 03:52PM ASCITES ___ 
___
___ 03:52PM ASCITES ___ 
LD(LDH)-95 ___
___ 09:22AM STOOL ___
 
Brief Hospital Course:
___ yo F who is s/p SPK transplant (on cyclosporine, MMF, 
prednisone), history of tacrolimus toxicity resulting in 
transverse myelitis, urinary retention, recurrent MDR UTI, who 
presented with fever 102.9, leukocytosis, urine culture positive 
for pseudomonas and Salmonella, new onset nausea, vomiting, 
diarrhea and fecal cultures positive for salmonella.  

#UTI
Pt has a history of meropenem resistant pseudomonas urine 
cultures; most
recent positive urine culture as an outpatient was not treated 
with antibiotics as thought to be colonization. However, given 
patient's fever, leukocytosis, positive UA on current admission, 
we involved ID and treated for complicated UTI. Urine culture 
grew salmonella and pseudomonas; stool culture also growing 
salmonella. Salmonella may suggest stool as source of UTI, 
possibly due to transverse myelitis w/ stool incontinence 
leading to fecal contamination through urethra. Pt no longer 
febrile since morning of ___, hemodynamically stable, WBC 
normalized after ___ but elevated the last few days and 
stable, without fevers/chills or new symptoms. Initially on 
azithromycin, cefepime, and flagyl. Patient discharged on 
cefepime for total 28 day course (through ___. PICC placed 
for medication administration.
.
#Diarrhea 
#Vomiting 
New problem developed while in hospital. Found to have positive 
salmonella in stool culture. C. Diff negative. HAV IgG and IgM 
negative (checked given recent outbreaks in MA). CT Abd w/o IV 
contrast did not reveal new abnormalities but had known 
loculated ascites. Paracentesis was without SBP. Patient 
improved and was having soft stools prior to discharge, 
continued on cefepime per ID.
.
___
#ESRD ___ type I DM s/p SPK transplant in ___. Baseline Cr is 
1.5, Cr on admission is 1.7. Urine sediment unremarkable besides 
large number of WBC which could be from UTI itself. Most likely 
___ in the setting of infection, no evidence of ATN on 
urine sediment. Responded to fluid replenishment. Cr now back at 
baseline, ___ prior to discharge.
.
#Immunosuppression
Cyclosporine trough goal 100.
- DECREASED cyclosporine dose to 100mg BID from 125mg BID
- Continued prednisone 5mg QD 
- Continued MMF 500mg BID
.
# Loculated ascites
Seen on CT scan. Had previously had small volume noted, without 
liver pathology. LFTs WNL at present. S/p Para ___ SAAG 0.1 
c/w exudative process. Cytology pending at time of discharge.
.
# HTN
Patient has labile blood pressures as an outpatient. BP remained 
intermittently high with 50mg PO labetalol PRN but not to 
concerning levels. Patient required labetalol occasionally, but 
held at discharge. Would consider starting as outpatient if 
needed, but please avoid calcium channel blockers. 
.
#Prophylaxis 
- Continued Atovaquone 750mg/5ml, 10ml QD for PCP prophylaxis 
- HOLDING weekly Fosfomycin for UTI prophyalxis until completion 
of
Abx course for current UTI through ___. 
- Continued raniditine 150mg BID 
.
#BMD
- Alendronate 70mg once a week 
- Vit D2 50,000U  
.
#Left calf wound
Patient has wound/ulcer on ___. While this could represent a 
potential source of infection, per physical exam does not seem 
to have significant induration/erythema to support this. 
Consulted wound care, and wound recs per below:
-Left Calf:
-Commercial wound cleanser or normal saline to cleanse wounds.
-Pat the tissue dry with dry gauze.
   ( X )Apply moisture barrier ointment to the periwound tissue  

           with each dressing change
-Apply Melgisorb Ag to wound bed and lightly moisten with normal
saline to activate the silver.
-Cover with small Sofsorb
-Secure with Kling
-Change dressing daily
.
#Paraplegia
#Neurogenic bladder s/p indwelling catheter
Initially decreased home baclofen from 20 mg QID to 20mg BID due 
to somnolence
.
#Seizure disorder
- continued home oxcarbazepine 150 mg BID
.
#Depression
- continued home venlafaxine 75 mg qAM/50 mg qHS
.
#Hypothyroidism
- continued home levothyroxine 50 mcg qd
.
#Anemia
- held iron while inpatient

.
TRANSITIONAL ISSUES:
[] Continue IV cefepime 2g q24h through ___
[] Please ___ prophylactic fosfomycin 3g q10d after patient 
is done with IV antibiotic course
[] Please recheck CBC and chemistry panel as outpatient at ___ 
___ at next visit.
[] Please follow up paracentesis fluid cytology, pending at time 
of discharge. If positive, consider setting the patient up with 
oncologist/OBGYN, if negative patient may require further 
imaging work up for evaluation for the etiology 
[] Please follow up RUQ u/s, pending at time of discharge
[] Patient should not cook food in communal kitchen until IV 
antibiotic course is finished. This is important for infection 
control
[] Patient intermittently had elevated blood pressures during 
admission. Please consider starting low dose labetalol if needed 
(patient received 50mg twice a day during part of 
hospitalization). Please avoid calcium channel blockers.
[] DECREASED cyclosporine dose to 100mg BID 
# Code: Full code, confirmed with patient
Name of health care proxy: ___ 
Relationship: Sister 
Phone number: ___ 
Proxy form in chart: ___ 
Filed on Date: ___ 
Comments: pt OK with sister ___ knowing medical
information ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Baclofen 20 mg PO QID 
4. CycloSPORINE (Neoral) MODIFIED 125 mg PO Q12H 
5. Ferrous Sulfate 325 mg PO QOD 
6. Heparin 5000 UNIT SC BID 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Mycophenolate Mofetil 500 mg PO BID 
10. OXcarbazepine 150 mg PO BID 
11. PredniSONE 5 mg PO QAM 
12. Ranitidine 150 mg PO BID 
13. Venlafaxine 50 mg PO QHS 
14. Venlafaxine 75 mg PO EVERY MORNING 
15. Alendronate Sodium 70 mg PO WEEKLY 
16. cranberry extract ___ mg oral BID 
17. Fosfomycin Tromethamine 3 g PO EVERY 10 DAYS 
18. melatonin 5 mg oral QHS 
19. Vitamin D ___ UNIT PO MONTHLY 

 
Discharge Medications:
1.  CefePIME 2 g IV Q24H 
To be taken through ___.  
2.  CycloSPORINE (Neoral) MODIFIED 100 mg PO Q12H  
3.  Alendronate Sodium 70 mg PO WEEKLY  
4.  Aspirin 81 mg PO DAILY  
5.  Atovaquone Suspension 1500 mg PO DAILY  
6.  Baclofen 20 mg PO QID  
7.  cranberry extract ___ mg oral BID  
8.  Ferrous Sulfate 325 mg PO QOD  
9.  Heparin 5000 UNIT SC BID  
10.  Levothyroxine Sodium 50 mcg PO DAILY  
11.  melatonin 5 mg oral QHS  
12.  Multivitamins 1 TAB PO DAILY  
13.  Mycophenolate Mofetil 500 mg PO BID  
14.  OXcarbazepine 150 mg PO BID  
15.  PredniSONE 5 mg PO QAM  
16.  Ranitidine 150 mg PO BID  
17.  Venlafaxine 75 mg PO EVERY MORNING  
18.  Venlafaxine 50 mg PO QHS  
19.  Vitamin D ___ UNIT PO MONTHLY  
20. HELD- Fosfomycin Tromethamine 3 g PO EVERY 10 DAYS  This 
medication was held. Do not restart Fosfomycin Tromethamine 
until you are finished taking the antibiotics that were started 
in the hospital

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Urinary tract infection
Gastrointestinal infection
Acute kidney injury
s/p kidney transplant
Ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking part in your care during your 
hospitalization at ___.

Why you were admitted to the hospital:
==========================================================
- You were found to have to have fevers

What happened while you were in the hospital:
==========================================================
- A number of tests revealed that you had a urinary tract 
infection with two types of bacteria, as well as a 
gastrointestinal infection with Salmonella
- You were given antibiotics to help treat the infection and you 
improved
- Imaging showed some fluid in your abdomen - a sample was 
collected, and showed no infection in your abdominal fluid. 
Other studies from this fluid are still pending and will take a 
few days to come back
- Your kidney was initially injured, but improved by the time 
you left the hospital.

What you should do when you go home:
==========================================================
- Please continue to take all of your medications as prescribed 
below. There have been some changes to your medications
- Please DO NOT cook in communal spaces in your group home until 
you complete the course of IV antibiotics on ___. This is 
important in order to limit transmission of the infection
- Follow up with the appointments as listed below
- Should you note any new or worrisome symptoms, especially 
those listed below, seek immediate medical care

It has been a pleasure taking part in your care, and we wish you 
the best!
- Your ___ care team
 
Followup Instructions:
___